US05155259
Synthesis of 2,2'-diethoxy-5,5'-bis(3-carboxypropyl) biphenyl
To 10 ml of an ethanol solution containing 183.3 mg (0.4147 mmol) of 2,2'-diethoxy-5,5'-bis(3-methoxycarbonylpropyl) biphenyl obtained in Reference Example 5, there was added 3.3 ml (3.3 mmol) of 1N sodium hydroxide solution and the mixture was agitated at room temperature for 24 hours. The solvent of the reaction mixture was evaporated off under reduced pressure and, to the resulting evaporated residue, water was added. The solution obtain was acidified by adding 1N hydrochloric acid to a pH of 1-2. The thus-formed precipitate was filtered, washed with water and dried, whereby 164 mg (0.3966 mmol, 96%) of the title compound was obtained as a white solid.

reactant | 2,2'-diethoxy-5,5'-bis(3-methoxycarbonylpropyl) biphenyl | 0.4147 mmol, 183.3 mg | C(C)OC1=C(C=C(C=C1)CCCC(=O)OC)C1=C(C=CC(=C1)CCCC(=O)OC)OCC | C26H34O6
reactant | sodium hydroxide | 3.3 mmol, 1N, 3.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,2'-diethoxy-5,5'-bis(3-carboxypropyl) biphenyl | 0.3966 mmol, 164 mg, 96% | C(C)OC1=C(C=C(C=C1)CCCC(=O)O)C1=C(C=CC(=C1)CCCC(=O)O)OCC | C24H30O6
